US04579947
1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-(4-chlorophenyl)urea hydrochloride
The procedure described in Example 3 was followed, using 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine (2.67 g; 10 mmole), methylene chloride (50 ml) and 4-chlorophenyl isocyanate (1.54 g; 10 mmole). Recrystallization from methanol provided the title compound (1.1 g; 25% yield) as colorless crystals, m.p. 241° C.

reactant | 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine | 10 mmole, 2.67 g | NCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | C14H22ClN3
reactant | 4-chlorophenyl isocyanate | 10 mmole, 1.54 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-(4-chlorophenyl)urea hydrochloride | 1.1 g, 25% yield | Cl.ClC1=CC=C(CN2CCN(CC2)CCCNC(=O)NC2=CC=C(C=C2)Cl)C=C1 | InChI=1S/C21H26Cl2N4O.ClH/c22-18-4-2-17(3-5-18)16-27-14-12-26(13-15-27)11-1-10-24-21(28)25-20-8-6-19(23)7-9-20;/h2-9H,1,10-16H2,(H2,24,25,28);1H
